### PR TITLE
Add preimage_setI/U lemmas.

### PR DESCRIPTION
**Pull request by vlj**
This adds a lemma that prove that the intersection/union of preimages is the preimage of intersections/unions

### CODE REVIEW

File: theories/classical_sets.v [hunk 1]
```diff
@@ -279,6 +279,14 @@ move=> Xx; have : setT x by [].
 by rewrite -fsurj => - [y _ fy_eqx]; exists y => //; rewrite /preimage fy_eqx.
 Qed.
 
+Lemma preimage_setU {A B I} (P : set I) (f:A->B) F:
+  f @^-1` (\bigcup_ (i in P) F) = \bigcup_(i in P) (f @^-1` F).
+Proof. by rewrite predeqE; split; rewrite /bigsetU /preimage. Qed.
```
Comment (CohenCyril) [inline theories/classical_sets.v]: Hi! Blind guess `by rewrite predeqE.` would close the goal...

Comment (vlj) [reply theories/classical_sets.v]: you're right, thanks for the tip !
